US05158970
tert-Butoxycarbonyl-L-prolinal dimethyl acetal (1.0 g, 4.08 mmol) is stirred for one hour at room temperature in 10% HCl-methanol (8.2 ml) and the mixture is evaporated to dryness under reduced pressure to give quantitatively L-prolinal dimethylacetal hydrochloride as a solid. The product is dissolved in dimethylformamide (5 ml) containing p-anisic acid (938 mg, 6.16 mmol) and diethyl-phosphoryl cyanide (0.65 ml, 8.25 mmol). To the solution is added dropwise triethylamine (1.15 ml, 8.25 mmol) under cooling and agitation in an ice-methanol bath. After the dropwise addition the mixture is stirred for one hour under cooling and then for one hour at room temperature. Benzene-ethyl acetate (2:1, 150 ml) is added to the reaction mixture and the organic layer was separated, washed successively with a saturated aqueous solution of sodium hydrogen carbonate (15 ml), water (15 ml) and a saturated aqueous solution of edible salt (15 ml), dried over sodium sulfate and filtered. The filtrate is concentrated to dryness under reduced pressure. The residue is purified by column chromatography on silica gel (n-hexane-dichloromethanemethanol, 6:4:1) to give 747 mg (65%) of the title compound as white crystals.

reactant | tert-Butoxycarbonyl-L-prolinal dimethyl acetal | 4.08 mmol, 1.0 g | COC([C@H]1N(CCC1)C(=O)OC(C)(C)C)OC | C12H23NO4
reactant | HCl methanol | 8.2 ml | Cl.CO
product | L-prolinal dimethylacetal hydrochloride | Cl.COC([C@H]1NCCC1)OC | InChI=1S/C7H15NO2.ClH/c1-9-7(10-2)6-4-3-5-8-6;/h6-8H,3-5H2,1-2H3;1H/t6-;/m0./s1
